### PR TITLE
chore(isel): prove sdivPow2Exact/sdivwPow2Exact negative-divisor sorries

### PR DESCRIPTION
**Pull request by tobiasgrosser**
## Summary
- Adds `BitVec.toInt_neg_one_shl` and `BitVec.sdiv_neg_one_shl_of_smod_eq_zero`, the negative-divisor analogues of the positive-divisor lemmas from #991: an exact `sdiv` by `-2^k` agrees with the negated arithmetic shift `-(x.sshiftRight' k)`.
- No case split is needed at the `intMin` boundary (`k = w-1`, e.g. `-2^63` for i64): `-2^k` is always already within the valid signed range for `k < w`, so `-2^(w-1)` (self-negating `intMin`) falls out of the same uniform proof.
- Closes the `sdivPow2Exact_neg_refinement` and `sdivwPow2Exact_neg_refinement` `sorry`s in `Veir/Passes/InstructionSelection/Proofs.lean`, both now single-line `veir_bv_decide` proofs.

Stacked on #991 (`tobias/division_sorries`).

## Test plan
- [x] `lake env lean Veir/ForLean.lean` — clean
- [x] `lake env lean Veir/Passes/InstructionSelection/Proofs.lean` — clean
- [x] Full `lake build Veir` — 134/134 jobs, zero warnings/errors

### CODE REVIEW

File: Veir/ForLean.lean [hunk 1]
```diff
@@ -472,6 +472,46 @@ theorem sdiv_one_shl_of_smod_eq_zero {w₁ w₂ : Nat} (x : BitVec w₁) (k : Bi
   have hcancel := BitVec.toInt_bmod_cancel (x.sshiftRight' k)
   rwa [toInt_sshiftRight''] at hcancel
 
+/-- The `toInt` of a negated power of two. Unlike `toInt_twoPow`, this needs no case split on
+    whether `2^k` is itself `intMin`: negating `intMin` wraps back to `intMin` (`neg_intMin`),
+    whose `toInt` is `-2^(w-1)`, i.e. exactly `-2^k` at that boundary too. -/
+theorem toInt_neg_one_shl {w₁ w₂ : Nat} (k : BitVec w₂) (hk : k.toNat < w₁) :
+    (-((1#w₁) <<< k)).toInt = -((2 ^ k.toNat : Nat) : Int) := by
```
Comment (luisacicolini) [inline Veir/ForLean.lean:479]: also not NF

File: Veir/ForLean.lean [hunk 2]
```diff
@@ -472,6 +472,46 @@ theorem sdiv_one_shl_of_smod_eq_zero {w₁ w₂ : Nat} (x : BitVec w₁) (k : Bi
...
+  omega
+
+/-- Negative-divisor analogue of `sdiv_one_shl_of_smod_eq_zero`: an exact `sdiv` by `-2^k` agrees
+    with the negated arithmetic shift. No bound relating `k` to `w` is needed beyond `k < w`
+    (unlike the positive-divisor version): `-2^(w-1)` is itself a valid divisor, since negating
+    it wraps back to itself. -/
+@[veir_bv_normalize_post]
+theorem sdiv_neg_one_shl_of_smod_eq_zero {w₁ w₂ : Nat} (x : BitVec w₁) (k : BitVec w₂)
+    (hk : k.toNat < w₁) (h : x.smod (-((1#w₁) <<< k)) = 0#w₁) :
+    x.sdiv (-((1#w₁) <<< k)) = -(x.sshiftRight' k) := by
```
Comment (luisacicolini) [inline Veir/ForLean.lean:504]: also not NF

Comment (tobiasgrosser) [reply Veir/ForLean.lean:504]: For `veir_bv_normalize_post`? Which NF are you talking about? If I run `simp only [veir_bv_normalize_post]` I get:

> `simp` made no progress

Comment (luisacicolini) [reply Veir/ForLean.lean:504]: if I run `simp` first thing in the proof I get:
```
x.sdiv (-1#w₁ <<< k.toNat) = -x.sshiftRight k.toNat
```
which is the normal form - in Lean we usuallly want to state lemmas in this form, and `simp` called as a first tactic should not be able to do anything

**Review by regehr — APPROVED** [review]
LGTM!

File: Veir/ForLean.lean (hunk 2 above)
Comment (tobiasgrosser) [reply Veir/ForLean.lean:504]: Yes, I get this. :-) Now, we defined a new set of rewrites where `k.toNat` is not permitted, to ensure it is bitblastable. So it cannot be a normal form.
